US07585885B2
(S)-2-sec-Butylamino-6-difluoromethoxy-isonicotinic acid
Add 2 N NaOH (0.67 mL) to (S)-2-sec-butylamino-6-difluoromethoxy-isonicotinic acid ethyl ester in ethanol (5 mL). Stir 3 h and acidify to about pH=4 with 1 N HCl and extract with ethyl acetate. Wash organic layer with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (0.1 g, 85%).

reactant | NaOH | 2 N, 0.67 mL | [OH-].[Na+]
reactant | (S)-2-sec-butylamino-6-difluoromethoxy-isonicotinic acid ethyl ester | C(C)OC(C1=CC(=NC(=C1)OC(F)F)N[C@@H](C)CC)=O | C13H18F2N2O3
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-2-sec-Butylamino-6-difluoromethoxy-isonicotinic acid | 0.1 g, 85% | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)OC(F)F | C11H14F2N2O3
